US04916152
Thionyl chloride (0.32 ml) was added to methanol (20 ml) at -78° C. and the solution was stirred at the same temperature for 30 minutes. To the solution was added (2S,4R)-2-[(Z)-5-carboxy-1-pentenyl]-1-(4-chlorophenylsulfonyl)-4-(4-chlorophenylsulfonylamino)pyrrolidine (2.0 g) and the mixture was stirred at room temperature for 2 hours. After removal of the solvent by evaporation in vacuo, the residue was dissolved in chloroform and washed successively with saturated aqueous sodium bicarbonate and brine. The organic layer was dried over magnesium sulfate and the solvent was evaporated in vacuo. The residue was solidified with ether to give (2S,4R)-1-(4-chlorophenylsulfonyl)-4-(4-chlorophenylsulfonylamino)-2-[(Z)-methoxycarbonyl-1-pentenyl]pyrrolidine (2.0 g).

reactant | Thionyl chloride | 0.32 ml | S(=O)(Cl)Cl | Cl2OS
reactant | (2S,4R)-2-[(Z)-5-carboxy-1-pentenyl]-1-(4-chlorophenylsulfonyl)-4-(4-chlorophenylsulfonylamino)pyrrolidine | 2.0 g | C(=O)(O)CCC\C=C/[C@H]1N(C[C@@H](C1)NS(=O)(=O)C1=CC=C(C=C1)Cl)S(=O)(=O)C1=CC=C(C=C1)Cl | C22H24Cl2N2O6S2
reactant | methanol | 20 ml | CO | CH4O
product | (2S,4R)-1-(4-chlorophenylsulfonyl)-4-(4-chlorophenylsulfonylamino)-2-[(Z)-methoxycarbonyl-1-pentenyl]pyrrolidine | 2.0 g | ClC1=CC=C(C=C1)S(=O)(=O)N1[C@@H](C[C@H](C1)NS(=O)(=O)C1=CC=C(C=C1)Cl)\C=C/CCCC(=O)OC | C23H26Cl2N2O6S2
